US04952683
(e) 2-Trans-octadecenal
12 g (50 mmol) of hexadecenal and 15.2 g (50 mmol) of formylmethylenetriphenylphosphorane in 250 ml of anhydrous toluene are boiled under reflux for 8 hours. The mixture is evaporated to dryness. The residue is extracted five times with 100 ml of ether. The extract is evaporated to dryness and chromatographed on silica gel using toluene. Yield: 8.2 g (62%). Melting point: 35° C.; RF =0.8, toluene/ethyl acetate 8:2.

reactant | hexadecenal | 50 mmol, 12 g | C(C=CCCCCCCCCCCCCC)=O | C16H30O
reactant | formylmethylenetriphenylphosphorane | 50 mmol, 15.2 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Trans-octadecenal | C(\C=C\CCCCCCCCCCCCCCC)=O | C18H34O
